US05071841
In methanol (200 ml) was suspended ethyl 6-cyclohexyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxylate (52 g) followed by addition of 2N-KOH (100 ml). The mixture was stirred at room temperature for one hour, poured into water, acidified and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and the solvent was distilled off to give 6-cyclohexyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxylic acid (33 g, yield 73%). Recrystallization from ethyl acetate-hexane gave colorless plates.

reactant | ethyl 6-cyclohexyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxylate | 52 g | C1(CCCCC1)C=1C=CC2=C(C(CSC2C(=O)OCC)=O)C1 | C18H22O3S
reactant | KOH | 100 ml | [OH-].[K+]
reactant | water | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | 6-cyclohexyl-3,4-dihydro-1H-2-benzothiopyran-4-one-1-carboxylic acid | 33 g, yield 73% | C1(CCCCC1)C=1C=CC2=C(C(CSC2C(=O)O)=O)C1 | C16H18O3S
